US04604390
2-Chloro-N-[2-[2-(diethylamino)ethyl]-2H[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]acetamide
A mixture of 10.2 g (0.030 mol) of 5-amino-N,N-diethyl-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine and 8.3 ml (0.060 mol) of Et3N in 90 ml of CHCl3 was treated dropwise with a solution of 3.6 ml (0.045 mol) of chloroacetyl chloride in 20 ml of CHCl3 over ten minutes. The reaction mixture was stirred at room temperature for three hours, treated with an additional 1.2 ml (0.015 mol) of chloroacetyl chloride in 50 ml of CHCl3, and concentrated to dryness in vacuo. The residue was triturated three times with cold MeOH to give 8.3 g of product, mp 204°-205° C. dec.

reactant | 5-amino-N,N-diethyl-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine | 0.030 mol, 10.2 g | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(S2)C=CC=C1 | C19H22N4S
reactant | Et3N | 0.060 mol, 8.3 ml | CCN(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.045 mol, 3.6 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | chloroacetyl chloride | 0.015 mol, 1.2 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | CHCl3 | 90 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-N-[2-[2-(diethylamino)ethyl]-2H[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]acetamide | 8.3 g | ClCC(=O)NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(S2)C=CC=C1 | C21H23ClN4OS
